US20010003782A1
3β-Hydroxy-4,4-dimethyl-24-(3-pentyl)-5α-chola-8,14-dien-24-one
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid-N-methoxy-N-methyl amide (0.57 g) is reacted with 3-pentylmagnesiumbromide and hydrolysed with ethanol/HCl following the procedure outlined in example 6 to give the title compound (13 mg). 1H-NMR (CDCl3, 300 MHz): δ=5.35 (1H, s); 3.23 (1H, m). MS: Calculated: 454.7. Found: 454.3.

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid-N-methoxy-N-methyl amide | 0.57 g | CON(C(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O)C | C34H59NO3Si
reactant | 3-pentylmagnesiumbromide | CCC(CC)[Mg]Br
reactant | ethanol HCl | C(C)O.Cl
product | 3β-Hydroxy-4,4-dimethyl-24-(3-pentyl)-5α-chola-8,14-dien-24-one | 13 mg | O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCC(=O)C(CC)CC)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C31H50O2
